US20010018525A1
step 2 1,3-Diphenyldibenzofuran-2-ol
The title compound was prepared as a light yellow-orange solid (0.058 g, 59%) from 1,3-dibromodibenzofuran-2-ol using a procedure similar to step 2 of Example 39, mp>46 °C. (decomp.); 1H NMR (CDCl3) δ5.14 (s, 1H), 6.99-7.08 (m, 2H), 7.35-7.44 (m, 2H), 7.48-7.68 (m, 1H); IR (KBr) 3530, 3060, 1600, 1500, 1460, 1450, 1420, 1320, 1260, 1220, 1160, 1130, 1070, 890, 800, 750, and 700 cm−; mass spectrum [EI], m/z 336 (M)+; Anal. Calcd. for C24H16O2.1.0H2O: C, 81.34; H, 5.12; N, 0.00, Found: C, 81.12; H, 4.79; N, −0.03.

reactant | 1,3-dibromodibenzofuran-2-ol | BrC1=C(C(=CC=2OC3=C(C21)C=CC=C3)Br)O | C12H6Br2O2
reactant | KBr | [K+].[Br-]
product | 1,3-Diphenyldibenzofuran-2-ol | C1(=CC=CC=C1)C1=C(C(=CC=2OC3=C(C21)C=CC=C3)C3=CC=CC=C3)O | C24H16O2
